US04309422
Preparation of O-Ethyl S-Propyl Chlorothiophosphate
S-Propyl dichlorothiophosphate (3.1 grams; 0.016 mole) was charged into a 300 ml glass reaction flask equipped with a mechanical stirrer. Methylene chloride (80 ml) was added and the solution was cooled to a temperature of -10° C. A solution of ethanol (0.737 grams; 0.016 mole) and triethylamine (1.62 grams; 0.016 mole) was then added dropwise with stirring while maintaining the temperature of the reaction mixture at about -5° C. After the addition was completed the reaction mixture was allowed to warm to room temperature and stirring was continued for a period of two hours to yield the desired product O-ethyl S-propyl chlorothiophosphate in solution.

reactant | S-Propyl dichlorothiophosphate | 0.016 mole, 3.1 grams | P(=O)(SCCC)(Cl)Cl | C3H7Cl2OPS
reactant | ethanol | 0.016 mole, 0.737 grams | C(C)O | C2H6O
reactant | triethylamine | 0.016 mole, 1.62 grams | C(C)N(CC)CC | C6H15N
solvent | Methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
product | O-ethyl S-propyl chlorothiophosphate | P(=O)(OCC)(SCCC)Cl | C5H12ClO2PS
